US06734179B2
To a stirred solution of 250 mg (0.95 mmol) 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine and 0.95 ml (5.53 mmol) N-ethyldiisopropylamine in 10 ml THF at room temperature was added dropwise a solution of 216 mg (1.14 mmol) 4-(chloromethyl)benzoyl chloride in 3 ml dichloromethane and stirring continued at room temperature for 60 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (1/1 ethyl acetate/hexane) followed by trituration in ether afforded 280 mg (71%) 4-chloromethyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-benzamide as a white crystalline solid. ES-MS m/e (%): 441 (M{37Cl}+Na+, 7), 439 (M{35Cl}+Na+, 21). 419 (M{37Cl}+H+, 41), 417 (M{35Cl}+H+, 100).

reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | 0.95 mmol, 250 mg | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
reactant | N-ethyldiisopropylamine | 5.53 mmol, 0.95 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-(chloromethyl)benzoyl chloride | 1.14 mmol, 216 mg | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-chloromethyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-benzamide | 280 mg, 71% | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=C1 | C21H21ClN2O3S
